US08975400B2
5-(hydroxymethyl)-2-(3-(trifluoromethyl)phenoxy)nicotinonitrile
To a solution of (5-bromo-6-(3-(trifluoromethyl)phenoxy)pyridin-3-yl)methanol (530 mg, 1.522 mmol) in N-methyl-2-pyrrolidone (NMP) (5 mL) was added copper(I) cyanide (545 mg, 6.09 mmol). The reaction mixture was stirred at 150° C. for 24 h, then poured into aq. NH3 (100 mL) and extracted with ethyl acetate (100 mL). Separated organic part was washed with brine (100 mL), dried over Na2SO4, filtered and concentrated. Purification via flash chromatography with (EtOAc/hexanes: 5% to 80%) afforded the title product (480 mg).

reactant | (5-bromo-6-(3-(trifluoromethyl)phenoxy)pyridin-3-yl)methanol | 1.522 mmol, 530 mg | BrC=1C=C(C=NC1OC1=CC(=CC=C1)C(F)(F)F)CO | C13H9BrF3NO2
reactant | copper(I) cyanide | 6.09 mmol, 545 mg | [Cu]C#N
reactant | NH3 | 100 mL | N | H3N
solvent | N-methyl-2-pyrrolidone | 5 mL | CN1C(CCC1)=O | C5H9NO
product | 5-(hydroxymethyl)-2-(3-(trifluoromethyl)phenoxy)nicotinonitrile | 480 mg | OCC=1C=NC(=C(C#N)C1)OC1=CC(=CC=C1)C(F)(F)F | C14H9F3N2O2
